US06462195B1
Comparative Example of Preparation of methyl 3-methoxy-2-[2-(2-isopropoxy-6-trifluoromethylpyrimidin4-yloxymethyl)phenyl]acrylate (Compound 2)
3.04 g of potassium salt of 2-isopropoxy-6-trifluoromethyl-4-hydroxypyrimidine and 3.65 g of methyl 3-methoxy-2-(2-bromomethylphenyl)acrylate were suspended in 50 ml of octane. The resulting suspension was reacted at reflux of octane for 5 hours and cooled down to room temperature. 30 ml of ethyl acetate was added and insoluble matter was filtrated. The precipitate separated by filtration was washed with 20 ml of etyl acetate. A mixed solution of the obtained filtrate and washing was analyzed with high-performance liquid chromatography. The yield of the target compound was 13.3% and 75.0% for a byproduct of methyl 3-methoxy-2-[2-(2-isopropoxy-6-trifluoromethylpyrimidin-4-on-3 -ylmethyl)phenyl]acrylate.

reactant | potassium | 3.04 g | [K] | K
reactant | 2-isopropoxy-6-trifluoromethyl-4-hydroxypyrimidine | C(C)(C)OC1=NC(=CC(=N1)O)C(F)(F)F | C8H9F3N2O2
reactant | methyl 3-methoxy-2-(2-bromomethylphenyl)acrylate | 3.65 g | COC=C(C(=O)OC)C1=C(C=CC=C1)CBr | C12H13BrO3
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | octane | 50 ml | CCCCCCCC | C8H18
product | methyl 3-methoxy-2-[2-(2-isopropoxy-6-trifluoromethylpyrimidin4-yloxymethyl)phenyl]acrylate | COC=C(C(=O)OC)C1=C(C=CC=C1)COC1=NC(=NC(=C1)C(F)(F)F)OC(C)C | C20H21F3N2O5
